US05332739
3.4 g of 4-(3-bromopropoxy)benzenesulfonic acid chloride was suspended in water, and 6.2 ml a 20% aqueous methylamine solution was added to the suspension under ice cooling. The solution was stirred at room temperature for 2 hours and then extracted with chloroform (50 ml×2), and drying and concentration followed to obtain 2.9 g (yield: 87%) of 4-(3-bromopropoxy)-N-methylbenzenesulfonamide in an oily state.

reactant | 4-(3-bromopropoxy)benzenesulfonic acid chloride | 3.4 g | BrCCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C9H10BrClO3S
reactant | methylamine | 6.2 ml | CN | CH5N
solvent | water | O | H2O
product | 4-(3-bromopropoxy)-N-methylbenzenesulfonamide | 2.9 g, yield: 87% | BrCCCOC1=CC=C(C=C1)S(=O)(=O)NC | C10H14BrNO3S
